US06515124B2
To a 2 L round-bottom flask, equipped with a mechanical stirrer, was charged 2-chloro-1,4-benzenedicarboxylic acid dimethyl ester (25.15 g, 0.11 mol), methanol (300 mL) and tetrahydrofuran (300 mL). Over 10 min, a solution of lithium hydroxide monohydrate (4.62 g, 0.11 mol) in water (200 mL) was added. After the reaction had proceeded at ambient temperature overnight, the solution was concentrated in vacuo to about 150 mL and then diluted with water (200 mL). The precipitated solid was filtered off and washed with water (2×20 mL) to give the recovered starting material, 2-chloro-1,4-benzenedicarboxylic acid dimethyl ester (1.8 g), as shiny platelets. The combined filtrates were stirred while 1N hydrochloric acid (112 mL, 0.112 mol) was added. The resulting solid was filtered off, washed with water (2×50 mL) and air dried. The solid was dissolved in methanol (300 mL) and warmed to about 45° C., then to the stirred solution, water was added to just before the cloud point. After the solution was left at room temperature overnight, the resulting colorless solid that had formed was filtered off, washed in turn with a cold mixture of methanol-water (1:2; 30 mL) and cold water (30 mL). The solid was recrystallized once more from methanol-water as described above and dried, to give 3-chloro-4-(methoxycarbonyl)benzoic acid (13.1 g, 55.5% yield) as colorless needles.

reactant | 2-chloro-1,4-benzenedicarboxylic acid dimethyl ester | 0.11 mol, 25.15 g | COC(=O)C1=C(C=C(C=C1)C(=O)OC)Cl | C10H9ClO4
reactant | methanol | 300 mL | CO | CH4O
reactant | lithium hydroxide monohydrate | 0.11 mol, 4.62 g | O.[OH-].[Li+]
reactant | 2-chloro-1,4-benzenedicarboxylic acid dimethyl ester | 1.8 g | COC(=O)C1=C(C=C(C=C1)C(=O)OC)Cl | C10H9ClO4
reactant | hydrochloric acid | 0.112 mol, 1N, 112 mL | Cl | ClH
solvent | water | 200 mL | O | H2O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 3-chloro-4-(methoxycarbonyl)benzoic acid | 13.1 g, 55.5% yield | ClC=1C=C(C(=O)O)C=CC1C(=O)OC | C9H7ClO4
